US09290451B2
c) 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid ((S)-2-cyclopropyl-1-dimethylcarbamoyl-ethyl)-amide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethyloxy-pyridine-2-carboxylic acid (Example 42 a) and (S)-2-amino-3-cyclopropyl-N,N-dimethylpropanamide hydrochloride as starting materials, LC-MS (UV peak area/ESI) 100%, 372.2278 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethyloxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | (S)-2-amino-3-cyclopropyl-N,N-dimethylpropanamide hydrochloride | Cl.N[C@H](C(=O)N(C)C)CC1CC1
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid ((S)-2-cyclopropyl-1-dimethylcarbamoyl-ethyl)-amide | C1(CC1)C[C@@H](C(N(C)C)=O)NC(=O)C1=NC(=C(C=C1)C1CC1)OCC1CC1 | C21H29N3O3
